US06110960
1-(8-tert-Butyl-2,3-dihydrobenzopyran-6-yl)-3-chloro-3-methyl- 1-butanone
To a solution of 1-(8-tert-butyl-2,3-dihydrobenzopyran-6-yl)-3-methyl-2-buten-1-one (0.62 g, 2.26 mmol) in Et2O (10 mL) is bubbled hydrogen chloride gas for about 15 min. The resulting solution is stirred at room temperature for 1 h, and concentrated. The resulting off-white oil is purified by flash column chromatography on silica (hexanes, hexanes/EtOAc; 10/1) to give the title compound (0.425 g. 61 %) as a pale yellow oil.

reactant | 1-(8-tert-butyl-2,3-dihydrobenzopyran-6-yl)-3-methyl-2-buten-1-one | 2.26 mmol, 0.62 g | C(C)(C)(C)C1=CC(=CC=2CCCOC21)C(C=C(C)C)=O | C18H24O2
reactant | hydrogen chloride | Cl | ClH
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | 1-(8-tert-Butyl-2,3-dihydrobenzopyran-6-yl)-3-chloro-3-methyl- 1-butanone | 0.425 g, 61 % | C(C)(C)(C)C1=CC(=CC=2CCCOC21)C(CC(C)(C)Cl)=O | C18H25ClO2
